US07323475B2
c) [(1-Ethoxy-4-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid
A mixture of [(1-Chloro-4-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester (177 mg, 0.5 mmol), KOH (325 mg, 5 mmol) and EtOH (10 ml) was stirred at ambient temperature for 90 min before the solvent was evaporated in vacuo. The residue was dissolved in water (10 ml). The solution was acidified by addition of concentrated aqueous HCl and extracted with EtOAc (2×15 ml). The combined organic phases were dried over MgSO4 and concentrated in vacuo to give the title compound as a slightly yellowish solid (169 mg); MS-(+)-ion: M+1=351.0.

reactant | [(1-Chloro-4-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester | 0.5 mmol, 177 mg | COC(CNC(=O)C=1N=C(C2=CC=CC=C2C1C1=CC=CC=C1)Cl)=O | C19H15ClN2O3
reactant | KOH | 5 mmol, 325 mg | [OH-].[K+]
reactant | EtOH | 10 ml | CCO | C2H6O
product | [(1-Ethoxy-4-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid | C(C)OC1=NC(=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NCC(=O)O | C20H18N2O4
